US06964965B2
A solution of 3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine, NIS (5.37 g, 23.9 mmol) and anhydrous DMF (100 mL) under N2 was heated at 50° C. for 4 h. The solution was partitioned between ethyl acetate and H2O and separated. The aqueous phase was extracted with ethyl acetate and the combined organics were washed with H2O, brine and dried (MgSO4). The mixture was filtered and concentrated to give a brown oil which was purified by flash chromatography (20% ethyl acetate in heptane) to give 5.57 g (74%) of 3,6-diethyl-N-(1-ethylpropyl)-5-iodopyrazin-2-amine as a light brown oil. 1H NMR (400 MHz, CDCl3) δ 4.02 (m, 2 H), 2.76 (q, 2 H), 2.57 (q, 2 H), 1.60-1.70 (m, 2 H), 1.45-1.55 (m, 2 H) 1.20-1.30 (m, 6 H), 0.92 (q, 6 H).

reactant | 3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC(CC)CC | C13H23N3
reactant | NIS | 23.9 mmol, 5.37 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3,6-diethyl-N-(1-ethylpropyl)-5-iodopyrazin-2-amine | 5.57 g, 74% | C(C)C=1C(=NC(=C(N1)I)CC)NC(CC)CC | C13H22IN3
